US07842688B2
a) tert-Butyl 3-[4-furan-2-yl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The mixture of 0.500 g of tert-butyl 3-[4-bromo-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.023 g of tetrakis(triphenylphosphine)palladium(0) in 6.0 ml of 1,2-dimethoxyethane is stirred at room temperature over 10 minutes, then admixed with 0.114 g of 2-furanboric acid, 0.70 ml of ethanol and 0.68 ml of 2M sodium carbonate solution and stirred at 80° C. over 16 hours. The reaction mixture is cooled, poured onto 1M sodium hydrogencarbonate solution (40 ml) and extracted with tert-butyl methyl ether (2×40 ml). The organic phases are washed successively with water (40 ml) and brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a brown oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.43 (1:1 EtOAc-heptane); Rt=6.32.

reactant | tert-butyl 3-[4-bromo-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.500 g | BrC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C38H50BrNO8
reactant | ethanol | 0.70 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2M, 0.68 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogencarbonate | 1M, 40 ml | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 6.0 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.023 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 3-[4-furan-2-yl-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | O1C(=CC=C1)C1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C42H53NO9
